US07410991B2
Intermediate 7.1: tert-Butyl-(1-isobutyl-prop-2-ynyloxy)-dimethyl-silane.
To a solution of 5-methyl-hex-1-yn-3-ol (5.0 g, 0.045 mol) in dry DMF (50 mL) were added imidazole (3.64 g, 0.054 mol) and tert-butyldimethylsilyl chloride (6.06 g, 0.054 mol). The resulting mixture was stirred at RT for 2.5 h and then treated with saturated NH4Cl (25 mL) and EtOAc (250 mL). The organic layer was washed with saturated NH4Cl (50 mL), water (4×100 mL), brine (2×100 mL), dried over sodium sulfate, and concentrated in vacuo to afford the crude product (9.84 g, 97.5%), as a yellow oil, which was used in the next step without further purification. Rf 0.9 (EtOAc/hexanes 1/9); 1H NMR (CDCl3) δ 0.10 (s, 3H), 0.13 (s, 3H), 0.90-0.88 (m, 15H), 1.53-1.46 (m, 1H), 1.65-1.58 (m, 1H), 1.87-1.77 (septet, J=6.6 Hz, 1H), 2.36-2.35 (t, J=1.84 Hz, 1H), 4.39-4.37(m, 1H).

reactant | 5-methyl-hex-1-yn-3-ol | 0.045 mol, 5.0 g | CC(CC(C#C)O)C | C7H12O
reactant | imidazole | 0.054 mol, 3.64 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.054 mol, 6.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl-(1-isobutyl-prop-2-ynyloxy)-dimethyl-silane | 9.84 g, 97.5% | C(C)(C)(C)[Si](C)(C)OC(C#C)CC(C)C | C13H26OSi
